US08071581B2
Step 1: 3-quinolin-6-yl-acrylic acid ethyl ester
A vial under nitrogen atmosphere was charged with 6-bromo-quinoline (1 g, 4.8 mmol) and dimethylformamide (15 mL), followed by ethyl acrylate (2.1 mL, 19.2 mmol), triethylamine (6.7 mL, 48 mmol), and palladium (II) acetate (32 mg, 0.142 mmol). The reaction mixture was stirred at 100° C. for 5 h, then the hot mixture was filtered over celite and the filtrate was concentrated in vacuo. The residue was partitioned between water and ethyl acetate. The organic layer was washed with saturated aqueous solution of ammonium chloride, saturated aqueous solution of sodium bicarbonate, then brine. The organic layer was then adsorbed on silica gel. Purification on silica gel with 10-80% gradient of ethyl acetate in hexane provided 952 mg of product as a yellow oil. 1H NMR 500 MHz (DMSO) δ 1.28 (t, 3H), 4.20 (q, 2H), 6.82 (d, 1H), 7.58 (d, 1H), 7.84 (d, 1H), 8.01 (d, 1H), 8.16 (dd, 1H), 8.30 (d, 1H), 8.37 (dd, 1H), 8.93 (dd, 1H); MS (m/z) 228 [M+H+]+.

reactant | 6-bromo-quinoline | 4.8 mmol, 1 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
reactant | ethyl acrylate | 19.2 mmol, 2.1 mL | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 48 mmol, 6.7 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium (II) acetate | 0.142 mmol, 32 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 3-quinolin-6-yl-acrylic acid ethyl ester | 952 mg | C(C)OC(C=CC=1C=C2C=CC=NC2=CC1)=O | C14H13NO2
